US05641788
According to the same manner as that described in Reference Example 5, 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-methyl-3-valerylquinoline was brominated with N-bromosuccinimide (NBS) to give 2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-3-valerylquinoline. This compound was recrystallized from ethyl acetate-hexane to give colorless prisms. mp. 150°-151° C.

reactant | 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-methyl-3-valerylquinoline | COC=1C=C(C=CC1OC)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)C)C(CCCC)=O | C25H29NO5
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-3-valerylquinoline | BrCC1=NC2=CC(=C(C=C2C(=C1C(CCCC)=O)C1=CC(=C(C=C1)OC)OC)OC)OC | C25H28BrNO5
